US07265120B2
To a solution of 5-(2-bromophenyl)-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2,3-pyrazinedicarbonitrile (3.00 g) in 1,3-dimethyl-2-imidazolidinone (6 ml), (4-methoxybenzyl)amine (0.96 ml) was added and the mixture was stirred at 25-30° C. for 100 hours. After addition of 0.5N aq. NaOH (15 ml), the mixture was stirred for one hour and a precipitate was collected by filtration to give a solid. The solid was dissolved in EtOAc, washed with water, dried over MgSO4 and concentrated under reduced pressure to give a residue. The residue was purified by column chromatography on silica gel eluting with a mixture of n-hexane and EtOAc (70:30 v/v) to give 5-(2-bromophenyl)-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-3-[(4-methoxybenzyl)amino]-2-pyrazinecarbonitrile as an amorphous solid (2.58 g) containing 6-(2-bromophenyl)-5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-3-[(4-methoxybenzyl)amino]-2-pyrazinecarbonitrile.

reactant | 5-(2-bromophenyl)-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2,3-pyrazinedicarbonitrile | 3.00 g | BrC1=C(C=CC=C1)C=1N=C(C(=NC1C1=NN(C(C=C1)=O)C(C)C)C#N)C#N | C19H13BrN6O
reactant | NaOH | 0.5N, 15 ml | [OH-].[Na+]
reactant | (4-methoxybenzyl)amine | 0.96 ml | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | 1,3-dimethyl-2-imidazolidinone | 6 ml | CN1C(N(CC1)C)=O | C5H10N2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(2-bromophenyl)-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-3-[(4-methoxybenzyl)amino]-2-pyrazinecarbonitrile | 2.58 g | BrC1=C(C=CC=C1)C=1N=C(C(=NC1C1=NN(C(C=C1)=O)C(C)C)C#N)NCC1=CC=C(C=C1)OC | C26H23BrN6O2
